US07354933B2
Preparation of 4-chloromethyl-6-methoxyquinoline
1.16 ml of triethylamine and 0.64 ml of methanesulfonyl chloride are successively added to a solution of 1.2 g of 4-hydroxymethyl-6-methoxyquinoline in 45 ml of dichloromethane, under an inert atmosphere of argon at a temperature in the region of 20° C. Stirring is maintained at this temperature for 3 hours. The reaction medium is concentrated under reduced pressure to give a brown residue. The product is used without further purification in the following step.

reactant | triethylamine | 1.16 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.64 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-hydroxymethyl-6-methoxyquinoline | 1.2 g | OCC1=CC=NC2=CC=C(C=C12)OC | C11H11NO2
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 4-chloromethyl-6-methoxyquinoline | ClCC1=CC=NC2=CC=C(C=C12)OC | C11H10ClNO
